US07728131B2
4-(bromomethyl)-5-methyl-1,3-dioxol-2-one
To 403 mg of 4-(chloromethyl)-5-methyl-1,3-dioxol-2-one and 525 mg of sodium bromide was added 0.8 ml of anhydrous N,N-dimethylformamide, followed by at room temperature for 1.5 hours. To the reaction solution was added 1.2 ml anhydrous acetone, the mixture was further stirred at room temperature for 1 hour, and then insolubles were removed by filtration. Insolubles were washed three times with 0.8 ml of anhydrous acetone, and the resulting pale yellow solution was used in the next reaction.

reactant | 4-(chloromethyl)-5-methyl-1,3-dioxol-2-one | 403 mg | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | sodium bromide | 525 mg | [Br-].[Na+]
reactant | N,N-dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
solvent | acetone | 1.2 ml | CC(=O)C | C3H6O
product | 4-(bromomethyl)-5-methyl-1,3-dioxol-2-one | BrCC=1OC(OC1C)=O | C5H5BrO3
